US04367238
Acetic anhydride (10 ml) was added to a solution of 3-[2-hydroxy-3-(2-chlorophenoxy)phenyl]propionic acid (5.0 g) in benzene (30 ml), and refluxed under heating for 1.5 hours. The reaction mixture was evaporated, and toluene was added to the residue and then evaporated again. The crystalline residue (4.30 g) was recrystallized from a mixture of ethyl acetate and n-hexane to give 8-(2-chlorophenoxy)chroman-2-one (3.9 g). mp 123°-125° C.

reactant | Acetic anhydride | 10 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | 3-[2-hydroxy-3-(2-chlorophenoxy)phenyl]propionic acid | 5.0 g | OC1=C(C=CC=C1OC1=C(C=CC=C1)Cl)CCC(=O)O | C15H13ClO4
solvent | benzene | 30 ml | C1=CC=CC=C1 | C6H6
product | 8-(2-chlorophenoxy)chroman-2-one | 3.9 g | ClC1=C(OC=2C=CC=C3CCC(OC23)=O)C=CC=C1 | C15H11ClO3
